Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Vicodin
 
Attending: ___
 
Chief Complaint:
Diabetic ketoacidosis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a past medical 
history
significant for anal carcinoma and right temporal lobe mass who
initially presented to ___ complaining of feeling unwell
for month. She experienced increasing nausea and vomiting, along
with non-specific abdominal pain. In addition she complained of
polyuria and blurring of her vision. She additionally endorses
increased cravings for foods during this time. She has no known
history of diabetes. At ___ her labs were notable for
HCO3 14, pH 7.31, blood glucose of 531, UA with glucose and
ketones. Due to lack of ICU beds at ___ she was started on
insulin drip and transferred to ___. 

At ___ her vital signs were stable with T 98.3, HR 100, BP
149/77, RR 18, and SpO2 100% on RA. On exam she appeared stable
and neuro intact. Her initial labs demonstrated Na 139, K 4.7, 
Cl
95, HCO3 13, Cr 1.2, and glucose 218. VBG was 7.31/41/33 with
lactate 3.3. Q1 ___ and Q2 labs were begun. She received LR and 
IV
insulin in accordance with the ___ insulin infusion
guidelines. her HCO3 improved to 18 and her pH to 7.37. She was
then transferred to the FICU for further management.

Imaging in ED:
CXR: No evidence of focal consolidation.
CTH: No acute intracranial abnormality noted. There is a 2 cm
densely calcified mass in the right temporal region. This is of
uncertain etiology. This finding was present on a PET/CT study
done on ___ suggesting it is a stable process.
Individualized dose optimization techniques were used, including
at least one of the following: Automated exposure control,
adjustment of the mA and/or kV according to the patient size, 
and
use of iterative reconstruction.

ROS: abnormal uterine bleeding for past few weeks. LMP ___ 

 
Past Medical History:
Anal carcninoma (___) s/p chemoradiation, in remission per last
onc note
Brain mass (stable)
Hypothyroidism
Anxiety
 
Social History:
___
Family History:
Father had prostate cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
======================== 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.  
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.  

VITALS: 
___ 0713 Temp: 98.0 PO BP: 93/69 R Sitting HR: 79 RR: 18 O2 
sat: 96% O2 delivery: Ra FSBG: 294 

EXAMINATION:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur. Radial and DP pulses present. 
RESP: Lungs clear to auscultation with good air movement 
bilaterally
GI: Obese. Abdomen is soft, non-distended, non-tender to 
palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: Right buttock wound without eschar (previously almost 
completely covered), granulation tissue at base of ulcer without 
major bleeding. Few smaller excoriations on bilateral buttocks. 
No anal ulcer/wound. No other rashes or ulcerations noted, but 
nursing reports macerated perineal area.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS
===============
___ 08:40AM BLOOD WBC-8.4 RBC-5.22* Hgb-13.5 Hct-42.0 
MCV-81* MCH-25.9* MCHC-32.1 RDW-17.4* RDWSD-48.5* Plt ___
___ 08:40AM BLOOD ___ PTT-23.8* ___
___ 08:40AM BLOOD Glucose-218* UreaN-17 Creat-1.2* Na-139 
K-4.7 Cl-95* HCO3-13* AnGap-30*
___ 08:40AM BLOOD Calcium-8.8 Phos-3.1 Mg-2.1
___ 08:52AM BLOOD %HbA1c-16.3* eAG-421*
___ 09:30AM BLOOD Triglyc-192* HDL-31* CHOL/HD-5.0 
LDLcalc-85 LDLmeas-99
___ 09:30AM BLOOD TSH-8.3*
___ 08:48AM BLOOD pO2-41* pCO2-33* pH-7.31* calTCO2-17* 
Base XS--8 Comment-SAMPLE TYP
___ 08:48AM BLOOD Lactate-3.3* K-4.0
___ 11:24AM BLOOD Glucose-291* Lactate-1.8 Creat-0.7 Na-137 
K-4.1 Cl-97

ADDITIONAL DATA:
___ 04:52AM BLOOD Glucose: 293* UreaN: 8 Creat: 0.7 Na: 137 
K: 3.8 Cl: 103 HCO3: 23 AnGap: 11 
___ 04:52AM BLOOD Calcium: 7.9* Phos: 3.6 Mg: 1.8 

___ 06:31AM BLOOD WBC: 5.3 RBC: 4.71 Hgb: 12.2 Hct: 37.6 
MCV: 80* MCH: 25.9* MCHC: 32.4 RDW: 16.5* RDWSD: 47.3* Plt Ct: 
208 
___ 06:31AM BLOOD Glucose: 299* UreaN: 8 Creat: 0.8 Na: 135 
K: 3.8 Cl: 101 HCO3: 21* AnGap: 13 
___ 06:31AM BLOOD Calcium: 7.8* Phos: 3.1 Mg: 1.9 Iron: 45 
___ 06:31AM BLOOD calTIBC: 198* Ferritn: 111 TRF: 152* 
___ 09:30AM BLOOD Cholest: 154 Triglyc: 192* HDL: 31* 
CHOL/HD: 5.0 LDLcalc: 85 LDLmeas: 99 
___ 09:30AM BLOOD TSH: 8.3* 
___ 06:31AM BLOOD T3: 69* Free T4: 0.8* 

___ 12:02AM BLOOD WBC: 5.6 RBC: 4.50 Hgb: 11.7 Hct: 36.0 
MCV: 80* MCH: 26.0 MCHC: 32.5 RDW: 16.4* RDWSD: 46.8* Plt Ct: 
240 
___ 09:30AM BLOOD Glucose: 145* UreaN: 7 Creat: 0.7 Na: 135 
K: 3.7 Cl: 101 HCO3: 24 AnGap: 10 
___ 09:30AM BLOOD Cholest: 154 Triglyc: 192* HDL: 31* 
CHOL/HD: 5.0 LDLcalc: 85 LDLmeas: 99 
___ 09:30AM BLOOD Type: CENTRAL VENOUS pO2: 38* pCO2: 45 
pH: 7.39 calTCO2: 28 Base XS: 1 

___ Head
There is a densely calcified mass in the right temporal region. 
This measures 2 cm.
The exam is limited due to motion artifact.
Impression:
 No acute intracranial abnormality noted.
There is a 2 cm densely calcified mass in the right temporal 
region. This is of uncertain etiology. This finding was present 
on a PET/CT study done on ___ suggesting it is a stable 
process.

PET SCAN CT ___
There is some activity in the perineal region which is likely 
related to contamination. Otherwise, no FDG avid adenopathy is 
identified with particular attention paid to the pelvis.  The 
FDG activity is physiologically distributed throughout the neck, 
chest, abdomen, pelvis, and osseous structures. There is diffuse 
increased uptake throughout the thyroid which is similar to the 
previous studies and nonspecific. Correlate clinically.
Impression:
1. No significant change. Allowing for the study limitations, no 
FDG avid adenopathy is identified.

CXR shows no obvious infiltrate. 

 
 
___ 2:34 pm SWAB      Source: Right buttock. 

   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary): 
      No Herpes simplex (HSV) virus isolated. 

   VARICELLA-ZOSTER CULTURE (Preliminary): 
      No Varicella-zoster (VZV) virus isolated. 

___ 2:34 pm SWAB      Source: Right buttock. 

   WOUND CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
in this
         culture. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 

 
Brief Hospital Course:
___ year old woman with a history of hypothyroidism, anal 
carcinoma s/p XRT and chemotherapy ___, and right temporal lobe 
mass presents to ED with DKA, admitted to ___ for further 
management. 

#DKA
#Diabetes Mellitus
ED labs demonstrated anion gap metabolic acidosis with 
respiratory compensation. UA at OSH showed ketones in urine. 
These data are consistent with DKA. She has no known history of 
diabetes, meaning this is the initial presentation. Patient was 
monitored with q1 blood glucose levels, treated with insulin 
drip, IVF and potassium repletion per DKA protocol. Once blood 
glucose 140-180 x4 hours patient was transitioned to SC insulin 
and called out to floors. Hb A1C of 16.3. Per endocrinology, her 
apparently abrupt presentation with previously normal blood 
glucose values raise possibility of autoimmune component. She 
may be at increased risk given personal history of alopecia, and 
hypothyroidism. Anti-GAD and anti-insulin AB pending. Patient 
was provided with diabetes education and expressed 
understanding. Patient has ___ that will review diabetes 
education. ___ to discuss exercise and sick plans. Patient 
discharged on the following regimen: 
- Lantus to 60 units with breakfast for basal insulin.
- Standing mealtime Humalog 18 units breakfast, lunch, and 
dinner. 
- No corrective scale until follow up. 
Patient will have follow up appointment with ___ Diabetes 
___ on ___ AT 3:00 ___. 

# Right gluteal wound: ~4cm punched out ulceration with 
overlying eschar (sloughed off during hospitalization) without 
surrounding inflammation. HSV/HZV was negative. Small amount of 
coag negative staph is likely contamination. It is possible this 
represents a radiation induced ulceration versus more likely 
pressure ulcer. Unlikely recurrence of anal cancer given site. 
Dermatology consulted who will follow as an outpatient on 
___ at 2:00 ___. 

# Right temporal lesion: Evidenced on CT at ___ in the 
Right temporal lesion. Discussed with primary oncologist; this 
was present but not reported on prior PET scan in ___. MRI 
shows likely intraventricular meningioma, but given the 
suspected involvement of the adjacent parenchyma the 
differential also includes ependymoma and exophytic intra-axial 
mass such as oligodendroglioma extending into the ventricle per 
radiology. Metastatic disease is not excluded, but this pattern 
would be unusual and there are no other lesions. No need for 
urgent neurosurgery evaluation per outpatient oncologist who 
patient will follow with after discharge. 

# Hypothyroidism. Reevaluate with repeat testing in ___ weeks 
after resolution of acute illness. 

# Alopecia areata: Patient will follow up with ___ 
clinic after discharge for consideration of intralesional 
Kenalog injections and/or other treatments, if desired.

# Anxiety: Continues on Citalopram 20 mg daily

# Anal Carcinoma: Diagnosed in ___ and status post 
chemoradiation. Per OSH notes appears to be in remission at this 
time. 

# Abnormal uterine bleeding: TSH abnormal, but unlikely 
clinically significant. Hemoglobin remained stable. Patient 
agreeable to follow with outpatient gynecologist when possible 
for further management.

# ___: RESOLVED: Admission Cr of 1.2, improved to baseline with 
IV fluids, indicating a prerenal azotemia associated with DKA.

Hospital course, assessments, and discharge plans discussed with 
patient and family who express understanding and agree to 
discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Q8H PRN Disp #*30 
Tablet Refills:*0 
2.  Glargine 60 Units Breakfast
Humalog 18 Units Breakfast
Humalog 18 Units Lunch
Humalog 18 Units Dinner 
3.  Mupirocin Ointment 2% 1 Appl TP DAILY 
RX *mupirocin 2 % Apply to right buttock wound once a day Disp 
#*1 Tube Refills:*0 
4.  Nystatin Cream 1 Appl TP BID 
RX *nystatin 100,000 unit/gram Apply to rash twice a day Disp 
#*1 Bottle Refills:*0 
5.  Citalopram 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diabetic ketoacidosis, hyperglycemia
Metabolic derangements
Right gluteal wound
Right temporal brain lesion
Hypothyroidism
Alopecia areata
Anxiety
Anal carcinoma
Abnormal uterine/vaginal bleeding
Acute renal failure, prerenal azotemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted with extremely elevated blood sugars and 
associated symptoms. We treated ___ for diabetic ketoacidosis 
and started ___ on insulin regimen to return home. ___ will 
follow closely with ___ and ___ diabetes. ___ may end up 
transitioning care closer to home. It is crucial that ___ follow 
with endocrinology. 

Other issues that will be followed by specialists are the brain 
lesion, bloody vaginal output, and right buttock wound 
(oncology, gynecology, and dermatology, respectively).

It was a pleasure meeting ___,

Your ___ care team

- Apply mupriocin then folded Xeroform, followed by an Allevyn 
pad daily to buttock wound.

- BG target discussed:  ___ and pre-meal 80-130mg/dL,
post-meal <180mg/dL, bedtime <150mg/dL
- Hypoglycemia (BG <70mg/dL) and how to treat hypoglycemia
discussed. Follow 15:15 rule. 
- If ___ skip a meal do NOT take Humalog fixed mealtime dose 
insulin

 
Followup Instructions:
___